US09334263B2
To a solution of (R)-1-(4-nitrophenyl)piperidin-3-ol was added Pd/C. The mixture was stirred under 1 atm H2 at room temperature overnight, and then filtrated through a pad of Celite. The filtrate was concentrated to afford (R)-1-(4-aminophenyl)piperidin-3-ol.

reactant | (R)-1-(4-nitrophenyl)piperidin-3-ol | [N+](=O)([O-])C1=CC=C(C=C1)N1C[C@@H](CCC1)O | C11H14N2O3
catalyst | Pd/C | [Pd] | Pd
product | (R)-1-(4-aminophenyl)piperidin-3-ol | NC1=CC=C(C=C1)N1C[C@@H](CCC1)O | C11H16N2O
